US07514419B2
To a stirred solution of methyl 3,5-dichloro-4-(4′-methoxyphenoxy)benzoate (1.5 g, 4.5 mmol) in CH2Cl2 (50 mL) at −78° C. was added BBr3 (11.4 mL, 11.4 mmol, 1 M solution in CH2Cl2). The reaction mixture was stirred at room temperature for 14 h, poured into ice water (100 mL) and stirred for 1 h. The reaction mixture was extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was recrystallized from CH2Cl2, filtered and dried under reduced pressure to afford 3,5-dichloro-4-(4′-hydroxyphenoxy)benzoic acid as a brown solid (1.02 g, 75%): mp 163-165° C.; 1H NMR (300 MHz, DMSO-d6): δ 9.02 (bs, 1H), 8.0 (s, 2H), 6.67 (m, 4H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (2:3); Rf=0.3.

reactant | methyl 3,5-dichloro-4-(4′-methoxyphenoxy)benzoate | 4.5 mmol, 1.5 g | ClC=1C=C(C(=O)OC)C=C(C1OC1=CC=C(C=C1)OC)Cl | C15H12Cl2O4
reactant | BBr3 | 11.4 mmol, 1 M, 11.4 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dichloro-4-(4′-hydroxyphenoxy)benzoic acid | 1.02 g, 75% | ClC=1C=C(C(=O)O)C=C(C1OC1=CC=C(C=C1)O)Cl | C13H8Cl2O4
